US05834100
Synthesis of 4'-Bromo-2-(4-bromobenzoyl)acetophenone [2].
In a 1-liter three neck round bottom flask , 43 g (0.2 mol) methyl 4-bromobenzoic acid and 17.6 g (0.4 mol) sodium hydride were dissolved in 200 ml dried benzene and heated to 60° C. Next, 39.8 g (0.2 mol) 4-bromoacetophenone in 100 ml dry benzene was slowly added through a dropping f umnel, and 1 ml methanol was added to the flask to initiate the reaction. After the mixture was refluxed overnight, the reaction was quenched by adding methanol and pouring it into ice water. The pH of the mixture was brought down to 7.0 using 5N sulfuric acid. A solid was collected, washed with water, and recrystallized from benzene to give a light yellow product. Characterization. Yield: 30.3 g (40%). 1H NMR (300 MHz, CDCl3, 20° C., δ): 7.84 (d, 4H, ArH); 7.62 (d, 4H, ArH); 6.77(s, 2H, CH2). EI-MS: 382(M+), 301, 225, 183, 157.

reactant | methyl 4-bromobenzoic acid | 0.2 mol, 43 g | CC1=C(C(=O)O)C=CC(=C1)Br | C8H7BrO2
reactant | sodium hydride | 0.4 mol, 17.6 g | [H-].[Na+]
reactant | 4-bromoacetophenone | 0.2 mol, 39.8 g | CC(=O)C1=CC=C(C=C1)Br | C8H7BrO
reactant | methanol | 1 ml | CO | CH4O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 4'-Bromo-2-(4-bromobenzoyl)acetophenone | BrC1=CC=C(C=C1)C(CC(C1=CC=C(C=C1)Br)=O)=O | C15H10Br2O2
